US04416884
A mixture of 0.8 g of 8-(1-piperazinyl)-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]-quinolizine 2-carboxylic acid hydrochloride hydrate, 0.4 ml of propargyl bromide, 0.8 ml of triethylamine and 10 ml of dimethylformamide was allowed to react by heating at 90° C. for 5 hours. After completion of the reaction insoluble substances were removed by filtration. After concentration under reduced pressure the filtrate was purified through a silica gel column chromatography (silica gel: Wako C-200, a trade name for a product of Wako Junyaku Co., Ltd.; eluent: chloroform-methanol (8:1 by volume)) to obtain 0.3 g of 8-[4-(2-propynyl)-1-piperazinyl]-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid as pale yellow rhombic crystals having a melting point of 211° to 213° C.

reactant | 8-(1-piperazinyl)-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]-quinolizine 2-carboxylic acid hydrochloride hydrate | 0.8 g | O.Cl.N1(CCNCC1)C1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)Cl
reactant | propargyl bromide | 0.4 ml | C(C#C)Br | C3H3Br
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 8-[4-(2-propynyl)-1-piperazinyl]-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 0.3 g | C(C#C)N1CCN(CC1)C1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)Cl | C21H22ClN3O3
